US06340759B1
6-Methoxy-3-(4-methoxyphenyl)isoquinolin-1-one (0.40 g) obtained by reacting N-methyl-4-methoxy-2-methylbenzamide (1.0 g) and 4-methoxybenzonitrile (0.75 g) according to Example 10-1 was reacted with phosphorus oxychloride (10 ml) according to Example 10-2, to give 1-chloro-6-methoxy-3-(4-methoxyphenyl)isoquinoline.

reactant | N-methyl-4-methoxy-2-methylbenzamide | 1.0 g | CNC(C1=C(C=C(C=C1)OC)C)=O | C10H13NO2
reactant | 4-methoxybenzonitrile | 0.75 g | COC1=CC=C(C#N)C=C1 | C8H7NO
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-6-methoxy-3-(4-methoxyphenyl)isoquinoline | ClC1=NC(=CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C17H14ClNO2
